US07018818B2
(+/−)-Ethyl bicyclo[3.2.0]hept-6-ylideneacetate
Triethylphosphonoacetate (96.2 g; 429 mmol) was added to a suspension of 60% sodium hydride dispersion (16.5 g; 413 mmol) in tetrahydrofuran (480 mL) maintaining the temperature between 1–4° C. A solution of bicyclo[3.2.0]heptan-6-one (35.0 g; 318 mmol) in tetrahydrofuran (320 ml) was added maintaining the temperature between 5–15° C. The reaction mixture was stirred at ambient temperature overnight. Demineralised water (350 mL) added and the product was extracted with diethyl ether (3×450 ml). The combined organic phases were washed with brine (300 ml), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to leave a pale orange oil. This was purified by chromatography on a silica pad, eluting with 1:19 ethyl acetate:n-hexane. The product containing fractions were combined and concentrated in vacuo to yield the title compound as a colourless oil (47.8 g).

reactant | sodium hydride | [H-].[Na+]
reactant | bicyclo[3.2.0]heptan-6-one | 318 mmol, 35.0 g | C12CCCC2C(C1)=O | C7H10O
reactant | water | 350 mL | O | H2O
reactant | tetrahydrofuran | 480 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 320 ml | O1CCCC1 | C4H8O
product | (+/−)-Ethyl bicyclo[3.2.0]hept-6-ylideneacetate | 47.8 g | C12CCCC2C(C1)=CC(=O)OCC | C11H16O2
